US05654472
A 2 l reaction vessel was charged with 10 g of 2-(2,4-difluorophenyl)-1,3-diacetoxy-2-propanol, 2 g of Lipase AP-6 (made by Amano Pharmaceutical Co., Ltd., derived from Aspergillus niger, Enzyme No. 12), 500 ml of 50 mM phosphate buffer (pH 7.0) and 500 ml of cyclohexane. The resulting mixture was stirred at 30° C. for 24 hours. The reaction liquid was extracted three times with 1000 ml of ethyl acetate and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure and the residue was purified by column chromatography on silica gel (n-hexane/ethyl acetate=1/10) to give 6.6 g of 2-(2,4-difluorophenyl)-1,2,3-propanetriol.

reactant | 2-(2,4-difluorophenyl)-1,3-diacetoxy-2-propanol | 10 g | FC1=C(C=CC(=C1)F)C(COC(C)=O)(COC(C)=O)O | C13H14F2O5
reactant | phosphate | 50 mM, 500 ml, pH 7.0 | P(=O)([O-])([O-])[O-]
solvent | cyclohexane | 500 ml | C1CCCCC1 | C6H12
product | 2-(2,4-difluorophenyl)-1,2,3-propanetriol | 6.6 g | FC1=C(C=CC(=C1)F)C(CO)(CO)O | C9H10F2O3
